US06903118B1
N-[2-(4-diphenylacetyl-piperazin-1-yl)-ethyl]-3-pyridin-3-yl-acrylamide (Substance 158)
8.0 g (22.6 mmol) N-[2-(piperazin-1-yl)-ethyl]-3-pyridin-3-yl-acrylic amide trihydrochloride (substance 317 as a trihydrochloride) and 13 ml (92.7 mmol) TEA are present in 100 ml absolute dichloromethane and cooled to ca. 0° C. under moisture exclusion. 6.3 g (24.9 mmol) diphenylacetyl chloride (90%) are dissolved in 70 ml absolute dichloromethane and added dropwise. The mixture is stirred overnight at RT without further cooling. Subsequently, 200 ml dichloromethane are added and the batch is washed three times each with 100 ml water. The organic phase is dried over sodium sulfate and the solvent is removed under vacuum. The residue is crystallized twice from 40 ml and 30 ml acetonitrile. Beige coloured crystals of MP. 1740° C. yield 4.6 g (44%).

reactant | N-[2-(piperazin-1-yl)-ethyl]-3-pyridin-3-yl-acrylic amide trihydrochloride | 22.6 mmol, 8.0 g | Cl.Cl.Cl.N1(CCNCC1)CCNC(C=CC=1C=NC=CC1)=O
reactant | diphenylacetyl chloride | 24.9 mmol, 6.3 g | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | N-[2-(4-diphenylacetyl-piperazin-1-yl)-ethyl]-3-pyridin-3-yl-acrylamide | C1(=CC=CC=C1)C(C(=O)N1CCN(CC1)CCNC(C=CC=1C=NC=CC1)=O)C1=CC=CC=C1 | C28H30N4O2
